US05389651
To a mixture of sodium hydride (0.08 g) in 5 ml of tetrahydrofuran (THF) and 2 ml of hexamethylphosphoramide (HMPA), cooled in an ice bath, is added, dropwise, 2-methyl-2-[4-(1-methylpropoxy)phenoxy]ethanol (0.63 g). The mixture is stirred at RT for 2 hours, after which a solution of 2-chloropyridine (0.38 g) in 5 ml of THF is added and the mixture is stirred at 60° for 3 hours. The THF is then removed by rotoevaporation and the residue is purified by column chromatography on silica gel to give the product, 2-{2-methyl-2-[4-(1-methylpropoxy)phenoxy]ethoxy}pyridine, MS m/e 302 (M+).

reactant | sodium hydride | 0.08 g | [H-].[Na+]
reactant | 2-methyl-2-[4-(1-methylpropoxy)phenoxy]ethanol | 0.63 g | CC(CO)OC1=CC=C(C=C1)OC(CC)C | C13H20O3
reactant | 2-chloropyridine | 0.38 g | ClC1=NC=CC=C1 | C5H4ClN
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 2 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | THF | 5 ml | O1CCCC1 | C4H8O
product | 2-{2-methyl-2-[4-(1-methylpropoxy)phenoxy]ethoxy}pyridine | CC(COC1=NC=CC=C1)OC1=CC=C(C=C1)OC(CC)C | C18H23NO3
